US05760032
3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.4 g) was dissolved in dimethylformamide (70 ml). 1-Ethoxycarbonylmethylindole-2-carbonyl chloride (3.03 g) and triethylamine (7.0 ml) were added under ice-cooling, and the mixture was stirred at room temperature for 8 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous citric acid solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was crystallized from ethanol to give 4.33 g of ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate.

reactant | 3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | 1-Ethoxycarbonylmethylindole-2-carbonyl chloride | 3.03 g | C(C)OC(=O)CN1C(=CC2=CC=CC=C12)C(=O)Cl | C13H12ClNO3
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate | 4.33 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C30H28ClN5O4S
